US05192781
7.6 g of 3-chloro-4-(4-nitrophenyl)butan-2-one and 4.5 g of N-carboxymethylthiourea (NH2CSNHCH2COOH) are dissolved in 100 ml of ethanol and refluxed for 12 hours. The reaction medium is concentrated and the residue is recrystallized from isopropanol to give 9.5 g of ethyl (4-methyl-5-(4-nitrobenzyl)thiazol-2-yl)aminoacetate.

reactant | 3-chloro-4-(4-nitrophenyl)butan-2-one | 7.6 g | ClC(C(C)=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C10H10ClNO3
reactant | N-carboxymethylthiourea | 4.5 g | C(=O)(O)CNC(=S)N | C3H6N2O2S
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl (4-methyl-5-(4-nitrobenzyl)thiazol-2-yl)aminoacetate | 9.5 g | CC=1N=C(SC1CC1=CC=C(C=C1)[N+](=O)[O-])NCC(=O)OCC | C15H17N3O4S
